data/preprocessed/USPTO_ozonolysis.csv
mech_smi,rxn_idx,step_idx_retro,source,source_db,split
"COC(=O)C(CC(=O)C1=CC=C(C(F)(F)F)C=C1)(C[CH:1]=[CH2:2])C(=O)OC.CSC.ClCCl.O.O.[O-:3][O+:4]=[O:5]|(3, 1);((1, 2), 5);((5, 4), 4)",31,4,reaction_14,USPTO_ozonolysis,train
"COC(=O)C(CC(=O)C1=CC=C(C(F)(F)F)C=C1)(C[CH:1]1[CH2:2][O:3][O:4][O:5]1)C(=O)OC.CSC.ClCCl.O.O|(5, 1);((1, 2), 3);((3, 4), 4)",31,3,reaction_14,USPTO_ozonolysis,train
"COC(=O)C(CC(=O)C1=CC=C(C(F)(F)F)C=C1)(C[CH:3]=[O+:4][O-:5])C(=O)OC.CSC.ClCCl.O.O.[CH2:1]=[O:2]|(5, 1);((1, 2), 3);((3, 4), 4)",31,2,reaction_14,USPTO_ozonolysis,train
"COC(=O)C(CC(=O)C1=CC=C(C(F)(F)F)C=C1)(CC1OC[O:3][O:1]1)C(=O)OC.C[S:2]C.ClCCl.O.O|(2, 3);((3, 1), 1)",31,1,reaction_14,USPTO_ozonolysis,train
"COC(=O)C(CC(=O)C1=CC=C(C(F)(F)F)C=C1)(C[CH:1]([O-:2])[O:3][CH2:4][O:5][S+:6](C)C)C(=O)OC.ClCCl.O.O|(2, 1);((1, 3), 4);((4, 5), 6)",31,0,reaction_14,USPTO_ozonolysis,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.COC(=O)C(C)(C[CH:1]=[CH2:2])C(C)(C)C.ClCCl.[O-:3][O+:4]=[O:5]|(3, 1);((1, 2), 5);((5, 4), 4)",12,4,reaction_33,USPTO_ozonolysis,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.COC(=O)C(C)(C[CH:1]1[CH2:2][O:3][O:4][O:5]1)C(C)(C)C.ClCCl|(5, 1);((1, 2), 3);((3, 4), 4)",12,3,reaction_33,USPTO_ozonolysis,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.COC(=O)C(C)(C[CH:3]=[O+:4][O-:5])C(C)(C)C.ClCCl.[CH2:1]=[O:2]|(5, 1);((1, 2), 3);((3, 4), 4)",12,2,reaction_33,USPTO_ozonolysis,train
"C1=CC=C([P:1](C2=CC=CC=C2)C2=CC=CC=C2)C=C1.COC(=O)C(C)(CC1OC[O:2][O:3]1)C(C)(C)C.ClCCl|(1, 3);((3, 2), 2)",12,1,reaction_33,USPTO_ozonolysis,train
"COC(=O)C(C)(C[CH:1]([O:2][CH2:3][O-:4])[O:5][P+:6](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C(C)(C)C.ClCCl|(4, 3);((3, 2), 1);((1, 5), 6)",12,0,reaction_33,USPTO_ozonolysis,train
"CCC1=C(C[CH:1]=[CH2:2])C=C(CC(=O)OC)C=N1.CO.CSC.ClCCl.[O-:3][O+:4]=[O:5]|(3, 1);((1, 2), 5);((5, 4), 4)",3,4,reaction_18,USPTO_ozonolysis,train
"CCC1=NC=C(CC(=O)OC)C=C1C[CH:1]1[CH2:2][O:3][O:4][O:5]1.CO.CSC.ClCCl|(5, 1);((1, 2), 3);((3, 4), 4)",3,3,reaction_18,USPTO_ozonolysis,train
"CCC1=NC=C(CC(=O)OC)C=C1C[CH:3]=[O+:4][O-:5].CO.CSC.ClCCl.[CH2:1]=[O:2]|(5, 1);((1, 2), 3);((3, 4), 4)",3,2,reaction_18,USPTO_ozonolysis,train
"CCC1=NC=C(CC(=O)OC)C=C1CC1OC[O:1][O:2]1.CO.C[S:3]C.ClCCl|(3, 2);((2, 1), 1)",3,1,reaction_18,USPTO_ozonolysis,train
"CCC1=NC=C(CC(=O)OC)C=C1C[CH:1]([O:2][CH2:3][O-:4])[O:5][S+:6](C)C.CO.ClCCl|(4, 3);((3, 2), 1);((1, 5), 6)",3,0,reaction_18,USPTO_ozonolysis,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.COC(C(C)COC(=O)C(C)(C)C)C(C)C(OC)[CH:2]=[CH:1]C.ClCCl.[O-:3][O+:4]=[O:5]|(3, 2);((2, 1), 5);((5, 4), 4)",15,4,reaction_15,USPTO_ozonolysis,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.COC(C(C)COC(=O)C(C)(C)C)C(C)C(OC)[CH:1]1[O:2][O:3][O:4][CH:5]1C.ClCCl|(2, 1);((1, 5), 4);((4, 3), 3)",15,3,reaction_15,USPTO_ozonolysis,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.COC(C(C)COC(=O)C(C)(C)C)C(C)C(OC)[CH:3]=[O+:4][O-:5].C[CH:1]=[O:2].ClCCl|(5, 1);((1, 2), 3);((3, 4), 4)",15,2,reaction_15,USPTO_ozonolysis,train
"C1=CC=C([P:2](C2=CC=CC=C2)C2=CC=CC=C2)C=C1.COC(C(C)COC(=O)C(C)(C)C)C(C)C(OC)C1OC(C)[O:1][O:3]1.ClCCl|(2, 1);((1, 3), 3)",15,1,reaction_15,USPTO_ozonolysis,train
"COC(C(C)COC(=O)C(C)(C)C)C(C)C(OC)[CH:1]([O-:2])[O:3][CH:4](C)[O:5][P+:6](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.ClCCl|(2, 1);((1, 3), 4);((4, 5), 6)",15,0,reaction_15,USPTO_ozonolysis,train
"CSC.C[C:1](C)=[CH:2]N1C(=O)C2N=C(CC3=CC=CC=C3)OC21.ClCCl.O.[O-:3][O+:4]=[O:5]|(3, 2);((2, 1), 5);((5, 4), 4)",28,4,reaction_0,USPTO_ozonolysis,train
"CSC.C[C:1]1(C)[O:2][O:3][O:4][CH:5]1N1C(=O)C2N=C(CC3=CC=CC=C3)OC21.ClCCl.O|(4, 5);((5, 1), 2);((2, 3), 3)",28,3,reaction_0,USPTO_ozonolysis,train
"CSC.C[C:1](C)=[O:2].ClCCl.O.O=C1C2N=C(CC3=CC=CC=C3)OC2N1[CH:3]=[O+:4][O-:5]|(5, 1);((1, 2), 3);((3, 4), 4)",28,2,reaction_0,USPTO_ozonolysis,train
"CC1(C)OC(N2C(=O)C3N=C(CC4=CC=CC=C4)OC32)[O:3][O:2]1.C[S:1]C.ClCCl.O|(1, 3);((3, 2), 2)",28,1,reaction_0,USPTO_ozonolysis,train
"C[S+:1](C)[O:2][CH:3](N1C(=O)C2N=C(CC3=CC=CC=C3)OC21)[O:4][C:5](C)(C)[O-:6].ClCCl.O|(6, 5);((5, 4), 3);((3, 2), 1)",28,0,reaction_0,USPTO_ozonolysis,train
"CO.COC(=O)C1(C[CH:1]=[CH2:2])CCN(C(=O)OC(C)(C)C)CC1.CSC.ClCCl.[O-:3][O+:4]=[O:5]|(3, 1);((1, 2), 5);((5, 4), 4)",21,4,reaction_6,USPTO_ozonolysis,train
"CO.COC(=O)C1(C[CH:1]2[CH2:2][O:3][O:4][O:5]2)CCN(C(=O)OC(C)(C)C)CC1.CSC.ClCCl|(5, 1);((1, 2), 3);((3, 4), 4)",21,3,reaction_6,USPTO_ozonolysis,train
"CO.COC(=O)C1(C[CH:3]=[O+:4][O-:5])CCN(C(=O)OC(C)(C)C)CC1.CSC.ClCCl.[CH2:1]=[O:2]|(5, 1);((1, 2), 3);((3, 4), 4)",21,2,reaction_6,USPTO_ozonolysis,train
"CO.COC(=O)C1(CC2OC[O:2][O:3]2)CCN(C(=O)OC(C)(C)C)CC1.C[S:1]C.ClCCl|(1, 2);((2, 3), 3)",21,1,reaction_6,USPTO_ozonolysis,train
"CO.COC(=O)C1(C[CH:1]([O-:2])[O:3][CH2:4][O:5][S+:6](C)C)CCN(C(=O)OC(C)(C)C)CC1.ClCCl|(2, 1);((1, 3), 4);((4, 5), 6)",21,0,reaction_6,USPTO_ozonolysis,train
